US04960892
α-Methyl-6-(3,3-dichloroallyloxy)-2-naphthaleneacetic acid
The title compound is prepared according to the method of Example 7 using 3,3-dichloroallyl chloride and racemic 6-hydroxy-α-methyl-2-naphthalene acetic acid. White crystals are obtained having a melting point of 107°-109° C.

reactant | 3,3-dichloroallyl chloride | ClC(=CCCl)Cl | C3H3Cl3
reactant | racemic 6-hydroxy-α-methyl-2-naphthalene acetic acid | OC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C13H12O3
product | α-Methyl-6-(3,3-dichloroallyloxy)-2-naphthaleneacetic acid | CC(C(=O)O)C1=CC2=CC=C(C=C2C=C1)OCC=C(Cl)Cl | C16H14Cl2O3
